US06972287B1
Preparation of 2-{4-[5-(3,4-Dichlorophenyl)pentyl]phenylamino}-4-methoxy-5-nitrobenzoic acid
The title compound was prepared from 2-{4-[5-(3,4-dichlorophenyl)-pentyl]phenylamino}-4-methoxy-5-nitrobenzoic acid methyl ester (145 mg, 0.28 mmol) and 1N NaOH (aq.) (0.56 mL) in THF (1.2 mL) using the procedure described in Example 2. Purification by flash chromatography (silica gel, 10% MeOH/CH2Cl2), then recrystallization with MeOH yielded 58 mg (0.12 mmol, 41%) of the desired product. mp 192-193° C.

reactant | 2-{4-[5-(3,4-dichlorophenyl)-pentyl]phenylamino}-4-methoxy-5-nitrobenzoic acid methyl ester | 0.28 mmol, 145 mg | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])OC)NC1=CC=C(C=C1)CCCCCC1=CC(=C(C=C1)Cl)Cl)=O | C26H26Cl2N2O5
reactant | NaOH | 1N, 0.56 mL | [OH-].[Na+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 2-{4-[5-(3,4-Dichlorophenyl)pentyl]phenylamino}-4-methoxy-5-nitrobenzoic acid | 0.12 mmol, 58 mg, 41% | ClC=1C=C(C=CC1Cl)CCCCCC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C(=C1)OC)[N+](=O)[O-] | C25H24Cl2N2O5
